US05053072
Ethyl 4-methoxy- 6-methylpyrimidine-2-carboxylate
182 ml of triethylamine in 50 ml of dichloromethane are added dropwise at -30° C. to a stirred suspension of 70.2 g of methyl-3-amino-2-butenimidate dihydrochloride in 350 ml of dichloromethane. Stirring is continued for 0.5 hour at this temperature, and 42 ml of oxalic acid ethyl ester chloride are then added dropwise. Stirring is continued for 1 hour at -30° C., and the mixture is allowed to come to room temperature in the course of 12 hours. The organic phase is stirred several times with water, dried over Na2SO4 and concentrated. After filtration over silica gel (eluent: CH2Cl2), the residue is distilled in vacuo. This gives 51.5 g of ethyl 4-methoxy-6-methylpyrimidine-2-carboxylate of boiling point 105°-115° C./-0.05 mbar.

reactant | triethylamine | 182 ml | C(C)N(CC)CC | C6H15N
reactant | methyl-3-amino-2-butenimidate dihydrochloride | 70.2 g | Cl.Cl.COC(C=C(C)N)=N
reactant | oxalic acid ethyl ester chloride | 42 ml | [Cl-].C(C)OC(C(=O)O)=O
reactant | water | O | H2O
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 350 ml | ClCCl | CH2Cl2
product | Ethyl 4-methoxy- 6-methylpyrimidine-2-carboxylate | COC1=NC(=NC(=C1)C)C(=O)OCC | C9H12N2O3
